US03953604
A mixture of 1-(2-acetyl-3-hydroxyphenoxy)-2-hydroxy-3-p-methoxyphenoxypropane (13.3 g) and diethyl oxalate (15 ml) was added to alcohol-free sodium ethoxide (prepared from sodium 3.0 g) in absolute ether (100 ml). The mixture was heated under reflux for 1.5 hours during which time a yellow solid separated. The residue was poured onto ice (100 g) and acidified with a solution of acetic acid (12 ml) in water (80 ml). The ether layer was separated and the aqueous solution was extracted with ether (3 × 25 ml). The combined ethereal layers were evaporated and the residue was dissolved in a mixture of acetic acid (80 ml) and hydrochloric acid (30 ml) and heated under reflux for 1 hour. On pouring into water (1 L) an off white solid was precipitated which was collected and recrystallized from acetic acid to give 1-(2-carboxychromon-5-yloxy)-2-hydroxy-3-p-methoxyphenoxypropane (12.0 g) as a white solid, m.p. 125°-126° C.

reactant | 1-(2-acetyl-3-hydroxyphenoxy)-2-hydroxy-3-p-methoxyphenoxypropane | 13.3 g | C(C)(=O)C1=C(OCC(COC2=CC=C(C=C2)OC)O)C=CC=C1O | C18H20O6
reactant | diethyl oxalate | 15 ml | C(C(=O)OCC)(=O)OCC | C6H10O4
solvent | ether | 100 ml | CCOCC | C4H10O
product | 1-(2-carboxychromon-5-yloxy)-2-hydroxy-3-p-methoxyphenoxypropane | 12.0 g | C(=O)(O)C=1OC2=CC=CC(=C2C(C1)=O)OCC(COC1=CC=C(C=C1)OC)O | C20H18O8
